US08609804B2
A modification of the published procedures of Moroni et al. in Macromolecules 1994, 27, 562 was used. A 300 mL round-bottom flask equipped with a reflux condenser, stirring bar, and gas inlet was charged with 1,4-dibromobenzene (50 g, 0.21 moles) and chlorosulfonic acid (100 mL). The mixture was heated to 90° C. for 2 hours under nitrogen to give a clear solution. The solution was cooled to room temperature and carefully poured onto ice (1 kg) to give a precipitate. The solids were collected by vacuum filtration, washed well with water, and air dried on the filter then dried under vacuum at 50° C. to give 68.36 g. The product was recrystallized from cyclohexane after treating with decolorizing carbon, collected by vacuum filtration, and dried at 50° C. under vacuum to give 55.37 g (79% yield) of 2,5-dibromobenzenesulfonyl chloride. 1H NMR (CDCl3): 7.66 (dd, 8.4, 2.3 Hz, 1H), 7.72 (d, 8.4 Hz, 1H), 8.30 (d, 2.3 Hz, 1H).

reactant | 1,4-dibromobenzene | 0.21 moles, 50 g | BrC1=CC=C(C=C1)Br | C6H4Br2
reactant | chlorosulfonic acid | 100 mL | ClS(=O)(=O)O | ClHO3S
product | 2,5-dibromobenzenesulfonyl chloride | 55.37 g, 79% yield | BrC1=C(C=C(C=C1)Br)S(=O)(=O)Cl | C6H3Br2ClO2S
